US05196610
3-Benzylbenzaldehyde (5.5 g) was dissolved in methanol (75 cm3) and cooled to 0° C. Sodium borohydride (1.29 g) was added gradually in small portions, and stirring was continued for one hour. The reaction mixture was cautiously poured into a water/diethyl ether mixture, and the resulting ethereal solution was washed with water and brine, and dried over anhydrous magnesium sulphate. Evaporation of the solvents under reduced pressure gave 3-benzylbenzyl alcohol as a pale yellow oil (5.2 g). The product was used without further purification.

reactant | 3-Benzylbenzaldehyde | 5.5 g | C(C1=CC=CC=C1)C=1C=C(C=O)C=CC1 | C14H12O
reactant | Sodium borohydride | 1.29 g | [BH4-].[Na+]
reactant | water diethyl ether | O.C(C)OCC
solvent | methanol | 75 cm3 | CO | CH4O
product | 3-benzylbenzyl alcohol | 5.2 g | C(C1=CC=CC=C1)C=1C=C(CO)C=CC1 | C14H14O
